* Op-Amp Inverting Amplifier
* Gain = -R2/R1 = -100k/10k = -10
* Uses VCCS model matching melange's op-amp implementation

* Input coupling
R1 in inv 10k
R2 inv out 100k

* Op-amp as VCCS + Rout (matches melange OA model)
* Gm = AOL/ROUT = 200000 S, Go = 1/ROUT = 1 S
* Physically correct polarity: current Gm*(V+ - V-) injected INTO out.
* Here V+ = 0 (ground), V- = inv, so -Gm*V(inv) into out:
G1 out 0 inv 0 200000
Rout out 0 1

* Stabilization cap (needed for DK trapezoidal method)
Cstab out 0 1p

* Control statements
.TRAN 1u 10m
.PRINT TRAN V(out) V(in)

.END
